US06599893B2
(7R)-7-[2-(2-Amino-5-chlorothiazol-4-yl)-2-(2-fluoroethoxyimino)-acetylamino]-3-(5-amino-[1,3,4]thiadiazol-2-ylsulfanyl)-8-oxo-5-thia-1-aza-bicyclo[4.2.0]oct-2-ene-2-carboxylic acid (42)
To a solution of (7R)-7-[2-[5-chloro-2-(tritylamino)-thiazol-4-yl]-2-(2-fluoro-ethoxyimino)-acetylamino]-3-(5-amino-[1,3,4]thiadiazol-2-ylsulfanyl)-8-oxo-5-thia-1-aza-bicyclo[4.2.0]oct-2-ene-2-carboxylic acid t-butyl ester (8 mg, 0.009 mmol) in dichloromethane (0.16 mL) was added triethylsilane (0.04 mL), followed by trifluoroacetic acid (0.16 mL). After 3 hr at room temperature the reaction mixture was concentrated under vacuum and disopropyl ether was added to the oily residue. The title compound precipitated and was filtered, washed with additional diisopropyl ether and dried under vacuum (3 mg, 32%).

reactant | (7R)-7-[2-[5-chloro-2-(tritylamino)-thiazol-4-yl]-2-(2-fluoro-ethoxyimino)-acetylamino]-3-(5-amino-[1,3,4]thiadiazol-2-ylsulfanyl)-8-oxo-5-thia-1-aza-bicyclo[4.2.0]oct-2-ene-2-carboxylic acid t-butyl ester | 0.009 mmol, 8 mg | C(C)(C)(C)OC(=O)C=1N2C([C@H](C2SCC1SC=1SC(=NN1)N)NC(C(=NOCCF)C=1N=C(SC1Cl)NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O)=O | C39H36ClFN8O5S4
reactant | triethylsilane | 0.04 mL | C(C)[SiH](CC)CC | C6H16Si
reactant | trifluoroacetic acid | 0.16 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 0.16 mL | ClCCl | CH2Cl2
product | (7R)-7-[2-(2-Amino-5-chlorothiazol-4-yl)-2-(2-fluoroethoxyimino)-acetylamino]-3-(5-amino-[1,3,4]thiadiazol-2-ylsulfanyl)-8-oxo-5-thia-1-aza-bicyclo[4.2.0]oct-2-ene-2-carboxylic acid | NC=1SC(=C(N1)C(C(=O)N[C@H]1C2SCC(=C(N2C1=O)C(=O)O)SC=1SC(=NN1)N)=NOCCF)Cl | C16H14ClFN8O5S4
